** Typical Model for 74HCU04 Unbuffered Inverter
** Rescued from 1993 Archives ;-)
** Jim Thompson © 1993-2014
.SUBCKT MyHCU04 IN OUT VP VN
Cnetstray1 OUT VN 4p
Cnetstray2 IN VN 4p
RPOLY IN 2A 450
MU OUT 2A VP VP P1 L=1.76u W=654U AD=5559P AS=5559P PD=1325U PS=1325U NRD=6.116m NRS=6.116m
ML OUT 2A VN VN N1 L=1.76u W=182U AD=1547P AS=1547P PD=381U PS=381U NRD=22m NRS=22m
**
*.LIB TYP
.MODEL N1 NMOS
+ LEVEL = 3
+ NSS = 0.00000E+00 VTO = 8.00000E-01 TOX = 2.30000E-08
+ XJ = 7.47842E-08 LD = 0.04500E-06 RSH = 65
+ NSUB = 2.77696E+16 NFS = 1.26234E+11 UO = 5.82719E+02
+ VMAX = 2.65458E+05 DELTA = 8.81407E-01 THETA = 5.29522E-02
+ ETA = 3.52580E-02 KAPPA = 2.15314E-01
+ CGSO = 6.75E-11 CGDO = 6.75E-11 CGBO = 0.00
+ CJ = 3.82E-04 CJSW = 1.25E-09 PB = 1.231
+ MJ = 0.396 MJSW = 0.221 TPG = 1
+ DW =-0.46000E-06 DL =-0.42000E-06
+ XQC = 1
*
.MODEL P1 PMOS
+ LEVEL = 3
+ NSS = 0.00000E+00 VTO =-9.00000E-01 TOX = 2.30000E-08
+ XJ = 8.32522E-08 LD = 0.03500E-06 RSH = 125
+ NSUB = 1.33990E+16 NFS = 7.19190E+11 UO = 1.92014E+02
+ VMAX = 4.16775E+07 DELTA = 5.63546E-01 THETA = 1.22160E-01
+ ETA = 4.96427E-02 KAPPA = 5.00000E-02
+ CGSO = 5.25E-11 CGDO = 5.25E-11 CGBO = 0.00
+ CJ = 4.01E-04 CJSW = 1.237E-09 PB = 0.723
+ MJ = 0.452 MJSW = 0.186 TPG = -1
+ DW =-0.46000E-06 DL =-0.44000E-06
+ XQC = 1
.ENDS MyHCU04